US09371320B2
D) 4-methoxy-1-(tetrahydro-2H-pyran-4-yl)-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one
A solution of 4-iodo-2-methoxy-N′-(tetrahydro-2H-pyran-4-yl)nicotinohydrazide (500 mg), L-proline (30.5 mg), potassium carbonate (366 mg) and copper(I) iodide (25.2 mg) in DMSO (25 mL) was stirred overnight at room temperature under nitrogen atmosphere. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (223 mg).

reactant | 4-iodo-2-methoxy-N′-(tetrahydro-2H-pyran-4-yl)nicotinohydrazide | 500 mg | IC1=CC=NC(=C1C(=O)NNC1CCOCC1)OC | C12H16IN3O3
reactant | L-proline | 30.5 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 366 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 25.2 mg | [Cu]I
product | 4-methoxy-1-(tetrahydro-2H-pyran-4-yl)-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one | 223 mg | COC1=NC=CC2=C1C(NN2C2CCOCC2)=O | C12H15N3O3
